US04421125
Preparation of 1-ethoxy-1-ethanol acetate
Into a 500 ml reaction flask, equipped with stirrer, cooling bath, thermometer, addition funnel and nitrogen blanket apparatus, is added 60 ml of acetic acid (1.1 moles) and 0.1 ml of acetyl chloride. Dropwise over a period of one hour, while maintaining the reaction mass at 30° C., is added 100 ml (1.0 moles) of ethyl vinyl ether. At the end of the addition of said ethyl vinyl ether, the reaction mass is stirred for a period of twelve hours, while maintaining the temperature thereof at 30° C.

reactant | acetic acid | 1.1 moles, 60 ml | C(C)(=O)O | C2H4O2
reactant | acetyl chloride | 0.1 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl vinyl ether | 1.0 moles, 100 ml | C(=C)OCC | C4H8O
product | 1-ethoxy-1-ethanol acetate | C(C)(=O)OC(C)OCC | C6H12O3
